US04042617
To a solution of 2.2 g of ethyl 3-methyl-3-(3-benzoylphenyl)-pyruvate in 20 ml of methanol was added a solution of 1.0 g of potassium hydroxide in 10 ml of methanol, and the resulting mixture was stirred at room temperature for 30 minutes. Subsequently, the methanol was removed from the mixture by distillation under reduced pressure. The residue was charged with water, and insoluble matter was removed therefrom by extraction with ethyl acetate. The extraction mother liquor was acidified with hydrochloric acid and then extracted with ethyl acetate. The ethyl acetate layer was successively washed with water and saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The ethyl acetate was removed by distillation under reduced pressure to obtain 1.6 g of 3-methyl-3-(3-benzoylphenyl)-pyruvic acid. The yield was 79%.

reactant | ethyl 3-methyl-3-(3-benzoylphenyl)-pyruvate | 2.2 g | CC(C(C(=O)OCC)=O)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C19H18O4
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 3-methyl-3-(3-benzoylphenyl)-pyruvic acid | 1.6 g, yield was 79% | CC(C(C(=O)O)=O)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C17H14O4
